US04772600
2-(4-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A mixture of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester (7.00 g, 0.0194 mole) sodium hydroxide pellets (0.88 g, 0.0220 mole), and 95% ethanol (100 ml) was refluxed for 1 hr. The reaction mixture was cooled and filtered. The filter cake (7.3 g) was dissolved in warm water, acidified with concentrated hydrochloric acid, and chilled. The precipitated solid was collected by filtration and the filter cake was rinsed with water, giving 5.6 g (87%) of crystals. Recrystallization from tetrahydrofuran-methanol gave 5.4 g of white needles, mp 264°-267° C.

reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.0194 mole, 7.00 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Br)=O | C16H14BrN3O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 5.6 g, 87% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
